US05807897
d. N-Formyl-2-amino-5-ethoxy-8-methoxytetralin
As in example 6g, 2-amino-5-ethoxy-8-methoxytetralin 408 mg (1.84 mmol) in 20 ml THF, was formylated with 360 mg (2.21 mmol) carbonyl dimidazole in 10 ml THF and 102 mg (2.21 mmol) formic acid in 3 ml THF. After stirring overnight, tlc analysis (silica gel; 10:90 CH3OH:CH2Cl2) indicated a major component, Rf 0.53, and absence of starting amine, Rf 0.06. The residue obtained on removal of solvent was dissolved in ethyl acetate, washed with 3N HCl, Na2CO3 solution, brine and dried (MgSO4). Filtration and removal of solvent in vacuo left an off-white solid, 460 mg (100%).

reactant | 2-amino-5-ethoxy-8-methoxytetralin | 1.84 mmol, 408 mg | NC1CC2=C(C=CC(=C2CC1)OCC)OC | C13H19NO2
reactant | carbonyl dimidazole | 2.21 mmol, 360 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | formic acid | 2.21 mmol, 102 mg | C(=O)O | CH2O2
reactant | CH3OH | CO | CH4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-Formyl-2-amino-5-ethoxy-8-methoxytetralin | C(=O)NC1CC2=C(C=CC(=C2CC1)OCC)OC | C14H19NO3
